US05034530
Tert-butyl imidazo[1,5-a]quinoxaline-3-carboxylate.
M.p. 187°-190° C., from 2-quinoxalinol and tert-butyl isocyanoacetate. (Compound 4)

reactant | 2-quinoxalinol | N1=C(C=NC2=CC=CC=C12)O | C8H6N2O
reactant | tert-butyl isocyanoacetate | [N+](#[C-])CC(=O)OC(C)(C)C | C7H11NO2
product | Tert-butyl imidazo[1,5-a]quinoxaline-3-carboxylate | C1=NC(=C2N1C1=CC=CC=C1N=C2)C(=O)OC(C)(C)C | C15H15N3O2
